US08048878B2
Synthesis of ethyl (R)-2-tert-butoxycarbonylamino-5-(3-chlorophenyl)-5-oxopentanoate
To a solution of (R)-5-oxopyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-ethyl ester (2.0 g) in tetrahydrofuran (100 mL), 3-chlorophenylmagnesium bromide (0.5 M solution in tetrahydrofuran; 17.1 mL) was added dropwise at −40° C. over 20 minutes, and the reaction solution was stirred at −40° C. to 0° C. for one hour. Water was added to the solution in small portions at 0° C., followed by extraction with ethyl acetate. The extract was washed with brine, dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (heptane-ethyl acetate system) to obtain 2.5 g of the title compound as a colorless oil. The property values of the compound are as follows.

reactant | (R)-5-oxopyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-ethyl ester | 2.0 g | CCOC(=O)[C@@H]1N(C(CC1)=O)C(=O)OC(C)(C)C | C12H19NO5
reactant | Water | O | H2O
reactant | 3-chlorophenylmagnesium bromide | 0.5 M, 17.1 mL | ClC=1C=C(C=CC1)[Mg]Br
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | ethyl (R)-2-tert-butoxycarbonylamino-5-(3-chlorophenyl)-5-oxopentanoate | 2.5 g | C(C)(C)(C)OC(=O)N[C@@H](C(=O)OCC)CCC(=O)C1=CC(=CC=C1)Cl | C18H24ClNO5
